US09421205B2
(e) 2-(2-(2-(2-((3-(4-Methylpiperazin-1-yl)phenyl)amino)-5-(trifluoromethyl)pyrimidin-4-yl)ethyl)phenyl)acetic acid (I68)
Methyl 2-(2-(2-(2-((3-(4-methylpiperazin-1-yl)phenyl)amino)-5-(trifluoromethyl)pyrimidin-4-yl)ethyl)phenyl)acetate (I67) (150 mg, 292 μmol) was dissolved in a THF (10 mL), then LiOH.H2O (36.7 mg, 876 μmol) was added. Water (2 mL) then MeOH (1 mL) was added. The resulting mixture was stirred at room temperature for 16 hours then the volatiles were removed by evaporation under reduced pressure. The residue was dissolved in MeOH (3 mL) then acidified with concentrated HCl to pH 2-3. The volatiles were evaporated under reduced pressure to give an orange residue. The residue was chromatographed on silica gel (0-20% MeOH/DCM) to give the title compound (I68) (120 mg, 82%) as a yellow crystalline solid; 1H NMR (400 MHz, d6-DMSO) δ 11.04 (bs, 1H), 10.12 (s, 1H), 8.68 (s, 1H), 7.44 (m, 1H), 7.35 (m, 1H), 7.24-7.18 (m, 5H), 6.72 (m, 1H), 3.77-3.74 (m, partially obscured by residual water signal), 3.44 (m, 3H), 3.17-3.03 (m, 8H), 2.78 (s, 3H). LCMS Method C: rt 4.92 min; m/z 500.3 (M+1), 498.2 (M−1), 454.3 (M-COOH).

reactant | Methyl 2-(2-(2-(2-((3-(4-methylpiperazin-1-yl)phenyl)amino)-5-(trifluoromethyl)pyrimidin-4-yl)ethyl)phenyl)acetate | 292 μmol, 150 mg | CN1CCN(CC1)C=1C=C(C=CC1)NC1=NC=C(C(=N1)CCC1=C(C=CC=C1)CC(=O)OC)C(F)(F)F | C27H30F3N5O2
reactant | LiOH.H2O | 876 μmol, 36.7 mg | O[Li].O
reactant | Water | 2 mL | O | H2O
reactant | MeOH | 1 mL | CO | CH4O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 2-(2-(2-(2-((3-(4-Methylpiperazin-1-yl)phenyl)amino)-5-(trifluoromethyl)pyrimidin-4-yl)ethyl)phenyl)acetic acid | CN1CCN(CC1)C=1C=C(C=CC1)NC1=NC=C(C(=N1)CCC1=C(C=CC=C1)CC(=O)O)C(F)(F)F | C26H28F3N5O2
